US08008488B2
18.1 1-(4-Chlorobutyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbonitrile
2.6 g (15.0 mmol) of 1-bromo-4-chlorobutane were added dropwise to a solution of 2.06 g (15.0 mmol) of 5-cyanouracil in 50 ml of dimethyl sulfoxide (DMSO) and 20.0 ml of N,N-dimethylformamide (DMF) at 0° C., and 2.07 g (15.0 mmol) of K2CO3 were added in portions over the course of 1 hour. The mixture was then stirred at 20° C. for 10 minutes (dialkylated product already identifiable). Water was added to the reaction mixture, and then the aqueous mixture was extracted twice with diethyl ether and twice with methylene chloride. The aqueous phase was adjusted to pH 3-4 and then extracted with methylene chloride. The methylene chloride phase was then dried, the desiccant was removed by filtration, and the solvent was evaporated to dryness in vacuo; yield: 0.6 g. 1-(4-Chlorobutyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbonitrile was employed without further purification in the next step.

reactant | 1-bromo-4-chlorobutane | 15.0 mmol, 2.6 g | BrCCCCCl | C4H8BrCl
reactant | 5-cyanouracil | 15.0 mmol, 2.06 g | C(#N)C=1C(NC(NC1)=O)=O | C5H3N3O2
reactant | K2CO3 | 15.0 mmol, 2.07 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | N,N-dimethylformamide | 20.0 ml | CN(C=O)C | C3H7NO
product | 1-(4-Chlorobutyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbonitrile | ClCCCCN1C(NC(C(=C1)C#N)=O)=O | C9H10ClN3O2
